US05153210
A solution of (4-hydroxyphenyl)propan-2-one ethylene ketal (1.4 g) in ethanol, was treated with a solution of sodium (0.16 g) in ethanol (25 ml) and heated under reflux for 10 minutes. A solution of 5-chloromethyl-2-(1,2,3,4-tetrahydropyran-2-yl)isoxazol-3-(2H)one (1.5 g) in ethanol was added dropwise, and the reaction was heated for 18 hr. The cooled solution was evaporated in vacuo, the residue partitioned between ethylacetate and water, the organic layer separated, dried (magnesium sulphate), and the solvent removed in vacuo to give an oil which was chromatographed on silica. Elution with ether: 60:80 petrol (1:1) gave an oil which was dissolved in acetone and treated with 2M hydrochloric acid solution (5 ml) and allowed to stand at room temperature for 4 hr. The solvent was removed in vacuo, the residue dissolved in ethyl acetate, washed with 1.2M sodium bicarbonate solution (1×50 ml), dried (magnesium sulphate , filtered and evaporated to give 5-(4-acetonylphenoxymethyl)3-hydroxyisoxazole.

reactant | (4-hydroxyphenyl)propan-2-one ethylene ketal | 1.4 g | C1COC(CC2=CC=C(C=C2)O)(C)O1 | C11H14O3
reactant | sodium | 0.16 g | [Na] | Na
reactant | 5-chloromethyl-2-(1,2,3,4-tetrahydropyran-2-yl)isoxazol-3-(2H)one | 1.5 g | ClCC1=CC(N(O1)C1OC=CCC1)=O | C9H10ClNO3
reactant | hydrochloric acid | 2M, 5 ml | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | acetone | CC(=O)C | C3H6O
product | 5-(4-acetonylphenoxymethyl)3-hydroxyisoxazole | C(C(=O)C)C1=CC=C(OCC2=CC(=NO2)O)C=C1 | C13H13NO4
